US05217999
α-Cyano-β-(3,5-di-tert butylphenyl)propenethioamide
Following the procedure as set forth in Example 11 above, cyanothioacetamide was condensed with 3,5-di-tert butylbenzaldehyde to yield the title compound, m.p. 172°-174° C.

reactant | cyanothioacetamide | C(#N)CC(=S)N | C3H4N2S
reactant | 3,5-di-tert butylbenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1)C(C)(C)C | C15H22O
product | α-Cyano-β-(3,5-di-tert butylphenyl)propenethioamide | C(#N)C(C(N)=S)=CC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C18H24N2S
